US06593322B1
D. 1-({4-[6-(Dimethylamino)(3-pyridyl)]phenyl}methyl)-2-(4-fluorophenyl)-1,2,3,4-tetrahydroisoquinolin-6-ol
To a solution of 1-({4-[6-(dimethylamino)(3-pyridyl)]phenyl}mehyl)-2-(4-fluorophenyl)-6-(phenylmethoxy)-1,2,3,4-tetrahydroisoquinoline (0.58 g, 1.07 mmol) in anhydrous dichloromethane (10 mL) under nitrogen at room temperature was added 1.0 M solution of boron tribromide-methyl sulfide complex in dichloromethane dropwise. After stirring for 5 hours, the reaction was quenched with ice-water and extracted with ethyl acetate. The extracts were dried over magnesium sulfate, filtered, and concentrated. The residue was then purified by chromatography (SiO2, 30-50% ethyl acetate/hexane) to provide the title compound (0.346 g, 71% yield): 1H NMR (CDCl3) 8.42 (d, 1H), 7.69 (dd, 1H), 7.38 (m, 2H), 7.05 (d, 2H), 6.93 (m, 2H), 6.79 (m, 2H), 6.53-6.67 (m, 4H), 5.09 (br, 1H), 4.76 (t, 1H), 3.58 (m, 1H), 3.48 (m, 1H), 3.17 (m 1H), 3.13 (s, 6H), 2.92 (m, 2H), 2.07 (dt, 1H); ES-MS m/z 454 [M+H]+.

reactant | 1-({4-[6-(dimethylamino)(3-pyridyl)]phenyl}mehyl)-2-(4-fluorophenyl)-6-(phenylmethoxy)-1,2,3,4-tetrahydroisoquinoline | 1.07 mmol, 0.58 g | CN(C1=CC=C(C=N1)C1=CC=C(C=C1)CC1N(CCC2=CC(=CC=C12)OCC1=CC=CC=C1)C1=CC=C(C=C1)F)C | C36H34FN3O
reactant | boron tribromide-methyl sulfide complex | [B-]([S+](C)C)(Br)(Br)Br | C2H6BBr3S
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 1-({4-[6-(Dimethylamino)(3-pyridyl)]phenyl}methyl)-2-(4-fluorophenyl)-1,2,3,4-tetrahydroisoquinolin-6-ol | 0.346 g, 71% yield | CN(C1=CC=C(C=N1)C1=CC=C(C=C1)CC1N(CCC2=CC(=CC=C12)O)C1=CC=C(C=C1)F)C | C29H28FN3O
